US07687502B2
6-(3-Chloropyridin-2-ylsulfanyl)-(1-methylpyrazol-3-yl)quinazolin-4-yl-amine
The compound of Example 74 was manufactured by the same method as in Example 1, by a similar method thereto or by a combination of such a method with a conventional method using 3-chloro-2-mercapto-pyridine, 3-amino-1-methylpyrazole and 4-chloro-6-iodoquinazoline.

reactant | 3-chloro-2-mercapto-pyridine | ClC=1C(=NC=CC1)S | C5H4ClNS
reactant | 3-amino-1-methylpyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-iodoquinazoline | ClC1=NC=NC2=CC=C(C=C12)I | C8H4ClIN2
product | 6-(3-Chloropyridin-2-ylsulfanyl)-(1-methylpyrazol-3-yl)quinazolin-4-yl-amine | ClC=1C(=NC=CC1)SC=1C=C2C(=NC=NC2=CC1)NC1=NN(C=C1)C | C17H13ClN6S
